US08106045B2
To a solution of (2S)-2-(4-aminophenyl)-4-((1R)-1-phenylethyl)morpholine (17.45 g, 61.8 mmol) and ammonium formate (11.7 g, 185.4 mmol) in mixture of tetrahydrofuran (180 ml), methanol (180 ml) and water (45 ml) was added 10% palladium on carbon (wet, 1.8 g) and the mixture was stirred at 95° C. for 3 hours. After filtration, the solvent was removed in vacuo and the residue was partitioned between water and dichloromethane. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give 4-((2S)-morpholin-2-yl)phenylamine (10.45 g, 95%) as pale yellow crystals.

reactant | (2S)-2-(4-aminophenyl)-4-((1R)-1-phenylethyl)morpholine | 61.8 mmol, 17.45 g | NC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C18H22N2O
reactant | ammonium formate | 185.4 mmol, 11.7 g | C(=O)[O-].[NH4+]
reactant | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
reactant | methanol | 180 ml | CO | CH4O
catalyst | palladium on carbon | 1.8 g | [Pd] | Pd
solvent | water | 45 ml | O | H2O
product | 4-((2S)-morpholin-2-yl)phenylamine | 10.45 g, 95% | N1C[C@@H](OCC1)C1=CC=C(C=C1)N | C10H14N2O
